US04261890
2,3,4,5-Tetrahydro-2,2,3-trimethyl-1-phenyl-1H-3-benzazepine
A solution of 2,3,4,5-tetrahydro-4,4-dimethyl-5-phenyl-1H-3-benzazepine (7.54 g., 0.03 mole) and 15 ml. of 36% aqueous formaldehyde in 25 ml. of 90% formic acid is refluxed for 8 hours. After the solution is concentrated to a low volume, ice and K2CO3 are added to pH 8.5 and extracted twice with 50 ml. of ethyl acetate. The combined organic extracts were washed, dried (Na2SO4) and evaporated to dryness in vacuo. Crystallization of the residue from isopropanol gives 6.0 g. (76% yield) of pure product as white crystals, m.p. 92°-93° C.

reactant | 2,3,4,5-tetrahydro-4,4-dimethyl-5-phenyl-1H-3-benzazepine | 0.03 mole, 7.54 g | CC1(C(C2=C(CCN1)C=CC=C2)C2=CC=CC=C2)C | C18H21N
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | C(=O)O | CH2O2
product | 2,3,4,5-Tetrahydro-2,2,3-trimethyl-1-phenyl-1H-3-benzazepine | 76% yield | CC1(N(CCC2=C(C1C1=CC=CC=C1)C=CC=C2)C)C | C19H23N
